US05264438
To a stirred solution of 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-6-methylsulfonylamino-1,2,3,4-tetrahydroquinazoline-2,4-dione (158 mg) in methanol was added 10% hydrogen chloride in methanol solution (123 mg) at 5° C. After stirring for 1 hour at 5° C., the solution was evaporated. The residue was crystallized from isopropyl alcohol-ethyl acetate to give 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-6-methylsulfonylamino-1,2,3,4-tetrahydroquinazoline-2,4-dione hydrochloride [81 mg).

reactant | 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-6-methylsulfonylamino-1,2,3,4-tetrahydroquinazoline-2,4-dione | 158 mg | C1(=CC=CC=C1)C=1CCN(CC1)CCCCN1C(NC2=CC=C(C=C2C1=O)NS(=O)(=O)C)=O | C24H28N4O4S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 123 mg | CO | CH4O
product | 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-6-methylsulfonylamino-1,2,3,4-tetrahydroquinazoline-2,4-dione hydrochloride | Cl.C1(=CC=CC=C1)C=1CCN(CC1)CCCCN1C(NC2=CC=C(C=C2C1=O)NS(=O)(=O)C)=O | InChI=1S/C24H28N4O4S.ClH/c1-33(31,32)26-20-9-10-22-21(17-20)23(29)28(24(30)25-22)14-6-5-13-27-15-11-19(12-16-27)18-7-3-2-4-8-18;/h2-4,7-11,17,26H,5-6,12-16H2,1H3,(H,25,30);1H
